US07569600B2
To a solution of 5-cyclohex-1-enyl-3-aminothiophene-2-carboxylic acid methyl ester (689 mg, 2.90 mmol) and 3-oxo-octahydro-indolizin-7-one (750 mg, 4.90 mmol; prepared as described in Tetrahedron, 1975, 1437) in 3 mL of dry THF was added dibutyltin dichloride (88 mg, 0.29 mmol), and the mixture was stirred for 10 min at room temperature under nitrogen. Then phenylsilane (394 μL, 3.19 mmol) was added, and the mixture was stirred overnight at room temperature. Solvent was evaporated under reduced pressure, and the residue was purified by column chromatography on silica gel using gradient 30-100% EtOAc in hexane to afford 973 mg (90%) of 5-cyclohex-1-enyl-3-[(3-oxo-octahydro-indolizin-7-yl)-amino]-thiophene-2-carboxylic acid methyl ester.

reactant | 5-cyclohex-1-enyl-3-aminothiophene-2-carboxylic acid methyl ester | 2.90 mmol, 689 mg | COC(=O)C=1SC(=CC1N)C1=CCCCC1 | C12H15NO2S
reactant | 3-oxo-octahydro-indolizin-7-one | 4.90 mmol, 750 mg | O=C1CCC2CC(CCN12)=O | C8H11NO2
reactant | dibutyltin dichloride | 0.29 mmol, 88 mg | C(CCC)[Sn](CCCC)(Cl)Cl
reactant | phenylsilane | 3.19 mmol, 394 μL | C1(=CC=CC=C1)[SiH3] | C6H8Si
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 5-cyclohex-1-enyl-3-[(3-oxo-octahydro-indolizin-7-yl)-amino]-thiophene-2-carboxylic acid methyl ester | 973 mg, 90% | COC(=O)C=1SC(=CC1NC1CCN2C(CCC2C1)=O)C1=CCCCC1 | C20H26N2O3S
